US06649600B1
4-(2,6-Dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbonitrile
To a stirred suspension of 4-(2,6-dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde oxime (400 mg, 1.03 mmol) in CHCl3 (20 ml), cooled with the aid of an ice bath, was added POCl3 (neat, 1.5 eq, 237 mg) and the resulting mixture was allowed to reach ambient temperature overnight (17 h). The reaction mixture was poured into water, the phases were separated and the organic phase was washed with saturated aqueous solution of NaHCO3, dried over Na2SO4, filtered and concentrated in vacuo to give a white, brittle foam (360 mg, 95%). MS: 370 (MH+).

reactant | 4-(2,6-dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde oxime | 1.03 mmol, 400 mg | O=C1N(C(C=2N=C(NC2N1CCC)C12CCC(CC1)(CC2)C=NO)=O)CCC | C20H29N5O3
reactant | POCl3 | 237 mg, 1.5 eq | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2,6-Dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbonitrile | 360 mg, 95% | O=C1N(C(C=2N=C(NC2N1CCC)C12CCC(CC1)(CC2)C#N)=O)CCC | C20H27N5O2
